US07781599B2
First, 0.96-M THF solution of phenyl magnesium bromide (1.25 mL, 1.2 mmol), various additives (1.2 mmol) shown in TABLE 1 below and bromocycloheptane (177 mg, 1.0 mmol) (shown by “1” in TABLE 1 below) were charged in a 50-mL glass tube equipped with a magnetic stirrer and cooled to −78° C. At this temperature, 0.1-M THF solution of FeCl3 (0.5 mL, 5 mol %) was added to the mixture. The resulting solution was put in an ice bath and stirred at 0° C. for 30 minutes. Saturated aqueous solution (0.5 mL) of NH4Cl was added to terminate the reaction. After conventional treatments, the amount of bromocyclopentane consumed and the yields of compounds produced (shown by “2,” “3” and “4” in TABLE 1 below) and biphenyl were determined by gas chromatography (internal standard (n-decane, 71 mg, 0.5 mmol)). The results are shown in TABLE 1.

reactant | phenyl magnesium bromide | 1.2 mmol, 1.25 mL | C1(=CC=CC=C1)[Mg]Br
reactant | bromocycloheptane | 1.0 mmol, 177 mg | BrC1CCCCCC1 | C7H13Br
reactant | NH4Cl | 0.5 mL | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
